US04000151
In the manner given in Example 1, 2-chloro-4-(o-chlorophenyl)quinoline is reacted at reflux with hydrazine hydrate to give 4-(o-chlorophenyl)-2-hydrazinoquinoline.

reactant | 2-chloro-4-(o-chlorophenyl)quinoline | ClC1=NC2=CC=CC=C2C(=C1)C1=C(C=CC=C1)Cl | C15H9Cl2N
reactant | hydrazine hydrate | O.NN
product | 4-(o-chlorophenyl)-2-hydrazinoquinoline | ClC1=C(C=CC=C1)C1=CC(=NC2=CC=CC=C12)NN | C15H12ClN3
